US04963544
A mixture of allyl (4R,5S,6S)-3-[(2S,4S)-1-allyloxycarbonyl-2-(imidazol-1-yl)methylpyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (15.4 g), methyl iodide (18.6 ml) and acetone (80 ml) was stirred at ambient temperature for 5 hours. The reaction mixture was evaporated in vacuo. The resulting residue was chromatographed on silica gel (75 g) eluting with a mixture of dichloromethane and methanol (9:1, V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give allyl (4R,5S,6S)-3-[(2S,4S)-1-allyloxycarbonyl-2-(3-methyl-1-imidazolio)methylpyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate iodide (17.72 g).

reactant | allyl (4R,5S,6S)-3-[(2S,4S)-1-allyloxycarbonyl-2-(imidazol-1-yl)methylpyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 15.4 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC=C)CN1C=NC=C1 | C25H32N4O6S
reactant | methyl iodide | 18.6 ml | CI | CH3I
solvent | acetone | 80 ml | CC(=O)C | C3H6O
product | allyl (4R,5S,6S)-3-[(2S,4S)-1-allyloxycarbonyl-2-(3-methyl-1-imidazolio)methylpyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate iodide | 17.72 g | [I-].C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC=C)C[N+]1=CN(C=C1)C | InChI=1S/C26H35N4O6S.HI/c1-6-10-35-25(33)22-23(16(3)21-20(17(4)31)24(32)30(21)22)37-19-12-18(13-28-9-8-27(5)15-28)29(14-19)26(34)36-11-7-2;/h6-9,15-21,31H,1-2,10-14H2,3-5H3;1H/q+1;/p-1/t16-,17-,18+,19+,20-,21-;/m1./s1
